US07569600B2
To a solution of 5-(4,4-dimethyl-cyclohexyl)-3-{(trans-4-methyl-cyclohexanecarbonyl)-[trans-4-(4-trimethylsilany-[1,2,3]triazol-1-yl)cyclohexyl]-amino}-thiophene-2-carboxylic acid methyl ester (1.1 g, 1.8 mmol) in THF (4.4 ml) was added TBAF 1.0 M in THF (0.270 ml, 2.70 mmol). The reaction mixture was stirred for 24 h and treated with water and saturated ammonium chloride solution. The aqueous layer was extracted with ethyl acetate. The organic layer was washed with brine, dried with sodium sulfate, filtered and concentrated under reduce pressure. The residue was purified by silica gel column chromatography (50% ethyl acetate/hexane to 100% ethyl acetate) to give 5-(4,4-Dimethyl-cyclohexyl)-3-[(trans-4-methyl-cyclohexanecarbonyl)-(trans-4-[1,2,3]triazol-1-yl-cyclohexyl)-amino]-thiophene-2-carboxylic acid methyl ester (0.534 g, 55%).

reactant | 5-(4,4-dimethyl-cyclohexyl)-3-{(trans-4-methyl-cyclohexanecarbonyl)-[trans-4-(4-trimethylsilany-[1,2,3]triazol-1-yl)cyclohexyl]-amino}-thiophene-2-carboxylic acid methyl ester | 1.8 mmol, 1.1 g | COC(=O)C=1SC(=CC1N([C@@H]1CC[C@H](CC1)N1N=NC(=C1)[Si](C)(C)C)C(=O)[C@@H]1CC[C@H](CC1)C)C1CCC(CC1)(C)C | C33H52N4O3SSi
reactant | TBAF | 1.0 M | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | water | O | H2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 4.4 ml | C1CCOC1 | C4H8O
solvent | THF | 2.70 mmol, 0.270 ml | C1CCOC1 | C4H8O
product | 5-(4,4-Dimethyl-cyclohexyl)-3-[(trans-4-methyl-cyclohexanecarbonyl)-(trans-4-[1,2,3]triazol-1-yl-cyclohexyl)-amino]-thiophene-2-carboxylic acid methyl ester | 0.534 g, 55% | COC(=O)C=1SC(=CC1N([C@@H]1CC[C@H](CC1)N1N=NC=C1)C(=O)[C@@H]1CC[C@H](CC1)C)C1CCC(CC1)(C)C | C30H44N4O3S
